US03932487
Under agitation, 500 g. of potassium salt of the ethyl ester of 2-oxocyclopentanecarboxylic acid is added to a boiling solution of 550 g. of the ethyl ester of 7-bromoenanthic acid in 6 l. of toluene; the mixture is further refluxed and, after one hour, another 250 g. of the potassium salt of the ethyl ester of 2-oxocyclopentanecarboxylic acid is added thereto. The reaction mixture is refluxed for another 24 hours, filtered after cooling, the solvent is distilled off, the residue is diluted with 3 l. of ether, washed with water, dried over Na2SO4, and the solvent is distilled off. After fractionation of the residue, 2-carbethoxy-2-(6-carbethoxyhexyl)-cyclopentanone is obtained as a colorless oil, b.p. = 165° (0.3 mm. Hg).

reactant | potassium | [K] | K
reactant | ethyl ester of 2-oxocyclopentanecarboxylic acid | CCOC(=O)C1CCCC1=O | C8H12O3
reactant | 7-bromoenanthic acid | BrCCCCCCC(=O)O | C7H13BrO2
reactant | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-carbethoxy-2-(6-carbethoxyhexyl)-cyclopentanone | C(=O)(OCC)C1(C(CCC1)=O)CCCCCCC(=O)OCC | C17H28O5
